US20010049374A1
8-Hydroxy-6-methoxy-3 4-dihydro-2H-naphthalen-1-one
A solution of 6, 8-dimethoxy-3, 4-dihydro-2H-naphthalen-1-one (15 g, 72.8 mmole), prepared according to the procedure of J. Chem. Soc., London 2782 (1955), which is incorporated herein by reference, in methylene chloride (150 mL) at 0° C. was treated portionwise with AlCl3 (14.3 g, 107 mmole), stirred for 20 h at room temperature, poured onto ice with stirring and extracted with methylene chloride when the ice melted. The extracts were washed with water and brine, dried (MgSO4) and concentrated to provide 13.8 g of the title compound.

reactant | 6, 8-dimethoxy-3, 4-dihydro-2H-naphthalen-1-one | 72.8 mmole, 15 g | COC=1C=C2CCCC(C2=C(C1)OC)=O | C12H14O3
reactant | AlCl3 | 107 mmole, 14.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 8-Hydroxy-6-methoxy-3 4-dihydro-2H-naphthalen-1-one | 13.8 g | OC=1C=C(C=C2CCCC(C12)=O)OC | C11H12O3
